US07598289B2
6-Biphenyl-4-yl-6-pentyloxy-hexan-1-ol (ABD-177)
4-(1-pentyloxyhex-5-enyl)-biphenyl (1 g) was dissolved in 0.5 M NaBH4 in diglyme (8 ml) and chilled in an ice bath. BF3.OEt2 (1 ml) in diglyme (4 ml) was added with vigorous stirring. Stirring was continued for 1 hour and water (1 ml) was added. 3M NaOH (2 ml) was added followed by 30% H2O2 (3 ml). Anhydrous K2CO3 (5 g) was added and the solvent decanted. The K2CO3 was washed with ethyl acetate and the combined organics dried (Na2SO4) and evaporated. Distillation under vacuum removes most of the remaining diglyme. The residue was purified by column chromatography (ethyl acetate/petrol) to give an oil. δC (CDCl3, 62.9 MHz): 14.1, 22.6, 25.7, 25.8, 28.4, 29.7, 32.7, 34.4, 63.0, 69.0, 82.0, 126.9, 127.1, 127.2, 128.8, 140.2, 141.0 and 142.4. δH (CDCl3, 250 MHz): 0.88 (3H, m), 1.16-1.55 (14H, m), 3.30 (2H, m), 3.62 (2H, t, J 6.1), 4.21 (1H, t, J 6.1), 7.34 (3H, d, J 7.6), 7.43 (2H, t, J 7.3) and 7.58 (4H, t, J 7.3).

reactant | 4-(1-pentyloxyhex-5-enyl)-biphenyl | 1 g | C(CCCC)OC(CCCC=C)C1=CC=C(C=C1)C1=CC=CC=C1 | C23H30O
reactant | BF3.OEt2 | 1 ml | B(F)(F)F.CCOCC
reactant | NaOH | 3M, 2 ml | [OH-].[Na+]
reactant | H2O2 | 3 ml | OO | H2O2
reactant | K2CO3 | 5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | NaBH4 | 0.5 M | [BH4-].[Na+]
solvent | diglyme | 8 ml | COCCOCCOC | C6H14O3
solvent | diglyme | 4 ml | COCCOCCOC | C6H14O3
solvent | water | 1 ml | O | H2O
product | 6-Biphenyl-4-yl-6-pentyloxy-hexan-1-ol | C1(=CC=C(C=C1)C(CCCCCO)OCCCCC)C1=CC=CC=C1 | C23H32O2
